US07829559B2
Triethylamine (0.054 mL, 0.39 mmol) and ethyl chloroformate (0.037 mL, 0.30 mmol) are added to a solution of a mixture of E/Z of 2-(1,5,6,7-tetrahydro-1-phenyl-4H-indazol-4-ylidene)acetic acid (100 mg, 0.39 mmol) in CH2Cl2 (5 mL) cooled to 0° C. and is stirred for 45 minutes at 0° C. Then morpholine (0.034 mL, 0.39 mmol) is added following the reaction by means of TLC. The solution is washed with diluted NaOH, the organic phase is separated, dried and evaporated under reduced pressure. The resulting crude product is purified by means of silica gel chromatography giving an E/Z mixture (80/20) of 4-(2-(1-phenyl-6,7-dihydro-1H-indazol-4(5H)-ylidene)acetyl)morpholine (40 mg, 0.12 mmol, 32%).

reactant | Triethylamine | 0.39 mmol, 0.054 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.30 mmol, 0.037 mL | ClC(=O)OCC | C3H5ClO2
reactant | 2-(1,5,6,7-tetrahydro-1-phenyl-4H-indazol-4-ylidene)acetic acid | 0.39 mmol, 100 mg | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)=CC(=O)O | C15H14N2O2
reactant | morpholine | 0.39 mmol, 0.034 mL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-(1-phenyl-6,7-dihydro-1H-indazol-4(5H)-ylidene)acetyl)morpholine | 0.12 mmol, 40 mg, 32% | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)=CC(=O)N1CCOCC1 | C19H21N3O2
